US08754242B2
2,5-Dimethylfuran (2.3 ml, 21.6 mmol) and magnesium iodide (0.40 g, 1.4 mmol) are added to a solution of 2-(5-bromo-2-ethylphenyl)cyclopent-4-ene-1,3-dione (2.0 g, 7.2 mmol) in dichloromethane (10 ml) and the mixture is stirred at room temperature for 3 days. The reaction mixture is concentrated under reduced pressure and the residue is purified by column chromatography on silica gel to give (1RS,2SR,6RS,7SR)-4-(5-bromo-2-ethylphenyl)-1,7-dimethyl-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione.

reactant | 2,5-Dimethylfuran | 21.6 mmol, 2.3 ml | CC=1OC(=CC1)C | C6H8O
reactant | magnesium iodide | 1.4 mmol, 0.40 g | [I-].[Mg+2].[I-]
reactant | 2-(5-bromo-2-ethylphenyl)cyclopent-4-ene-1,3-dione | 7.2 mmol, 2.0 g | BrC=1C=CC(=C(C1)C1C(C=CC1=O)=O)CC | C13H11BrO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (1RS,2SR,6RS,7SR)-4-(5-bromo-2-ethylphenyl)-1,7-dimethyl-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione | BrC=1C=CC(=C(C1)C1C(C2C3(C=CC(C2C1=O)(O3)C)C)=O)CC | C19H19BrO3
